US07834063B2
B. 4-[(2-Phenylethyl)(propyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized in a manner similar to step B of Example 1 using 4-[(2-phenylethyl)amino]-2-(trifluoromethyl)benzonitrile, Example 122A and iodopropane: MS (ES) m/z 333 (M+1).

reactant | 4-[(2-phenylethyl)amino]-2-(trifluoromethyl)benzonitrile | C1(=CC=CC=C1)CCNC1=CC(=C(C#N)C=C1)C(F)(F)F | C16H13F3N2
reactant | iodopropane | ICCC | C3H7I
product | 4-[(2-Phenylethyl)(propyl)amino]-2-(trifluoromethyl)benzonitrile | C1(=CC=CC=C1)CCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCC | C19H19F3N2
